*
*|DSPF 1.5
*
*|DATE "Wed Jul 17 15:50:23 2024"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Quantus Extraction"
*|VERSION "23.1.0-p075 Linux 64 bit - (Tue Sep 26 09:11:43 PDT 2023)"
*|DESIGN "emir_test_2"
*|DIVIDER /
*|DELIMITER #
*|DeviceFingerDelim "@"
*|BUSBIT []
*|GLOBAL_TEMPERATURE 27
*|OPERATING_TEMPERATURE 25
** QRC_TECH_DIR /home/saul/pkg/xfab/XKIT/xh018/cadence/v9_0/QRC_pvs/v9_0_1/XH018_1143/QRC-Typ 
** HIERARCHICAL_SPLIT_PINS_DELIMITER '%'
** caps2d version: 10
*
.SUBCKT  emir_test_2 gnda vdda
*
*Net Section
*
*|GROUND_NET 0
*
*LAYER_MAP
*0 none
*1 POLY1
*2 MET1
*3 active
*4 CONT

*|NET gnda 0
*|P (gnda X 0 318.2400 21.0950) // $llx=318.2400 $lly=21.0950 $urx=318.2400 $ury=21.0950 $lvl=2
*|I (XRR11#POS XRR11 POS X 0 314.1655 32.1150) // $llx=314.1655 $lly=32.1150 $urx=314.1655 $ury=32.1150 $lvl=1
*|I (XRR0#POS XRR0 POS X 0 314.1655 20.8600) // $llx=314.1655 $lly=20.8600 $urx=314.1655 $ury=20.8600 $lvl=1
*|I (XRR1#POS XRR1 POS X 0 314.1655 11.3650) // $llx=314.1655 $lly=11.3650 $urx=314.1655 $ury=11.3650 $lvl=1
*|S (gnda#1 314.7150 32.1150) // $llx=314.7150 $lly=32.1150 $urx=314.7150 $ury=32.1150 $lvl=1
*|S (gnda#3 314.7150 20.8600) // $llx=314.7150 $lly=20.8600 $urx=314.7150 $ury=20.8600 $lvl=1
*|S (gnda#5 314.7150 11.3650) // $llx=314.7150 $lly=11.3650 $urx=314.7150 $ury=11.3650 $lvl=1
Rg1 gnda#1 XRR11#POS 0.815293 $POLY1  $L=0.76 $W=5.03 $lvl=1
Rg2 gnda#3 XRR0#POS 0.815293 $POLY1  $L=0.76 $W=5.03 $lvl=1
Rg3 gnda#5 XRR1#POS 0.815293 $POLY1  $L=0.76 $W=5.03 $lvl=1
Rcb4 gnda#5 gnda 0.746775 $CONT  $A=0.484 $N=10 $lvl=4
Rcb5 gnda#3 gnda 0.746775 $CONT  $A=0.484 $N=10 $lvl=4
Rcb6 gnda#1 gnda 0.746775 $CONT  $A=0.484 $N=10 $lvl=4
*
*|NET vdda 0
*|P (vdda X 0 2.6600 20.3600) // $llx=2.6600 $lly=20.3600 $urx=2.6600 $ury=20.3600 $lvl=2
*|I (XRR11#NEG XRR11 NEG X 0 289.1645 32.1150) // $llx=289.1645 $lly=32.1150 $urx=289.1645 $ury=32.1150 $lvl=1
*|I (XRR0#NEG XRR0 NEG X 0 289.1645 20.8600) // $llx=289.1645 $lly=20.8600 $urx=289.1645 $ury=20.8600 $lvl=1
*|I (XRR1#NEG XRR1 NEG X 0 289.1645 11.3650) // $llx=289.1645 $lly=11.3650 $urx=289.1645 $ury=11.3650 $lvl=1
*|S (vdda#2 288.6150 32.1150) // $llx=288.6150 $lly=32.1150 $urx=288.6150 $ury=32.1150 $lvl=1
*|S (vdda#4 288.6150 20.8600) // $llx=288.6150 $lly=20.8600 $urx=288.6150 $ury=20.8600 $lvl=1
*|S (vdda#6 288.6150 11.3650) // $llx=288.6150 $lly=11.3650 $urx=288.6150 $ury=11.3650 $lvl=1
*|S (vdda#7 288.6150 11.3650) // $llx=288.6150 $lly=11.3650 $urx=288.6150 $ury=11.3650 $lvl=2
*|S (vdda#9 2.7225 10.7850) // $llx=2.7225 $lly=10.7850 $urx=2.7225 $ury=10.7850 $lvl=2
*|S (vdda#12 2.7225 31.3250) // $llx=2.7225 $lly=31.3250 $urx=2.7225 $ury=31.3250 $lvl=2
*|S (vdda#13 288.6150 32.1150) // $llx=288.6150 $lly=32.1150 $urx=288.6150 $ury=32.1150 $lvl=2
*|S (vdda#14 288.6150 34.5745) // $llx=288.6150 $lly=34.5745 $urx=288.6150 $ury=34.5745 $lvl=2
*|S (vdda#15 288.6150 20.8600) // $llx=288.6150 $lly=20.8600 $urx=288.6150 $ury=20.8600 $lvl=2
*|S (vdda#16 288.6150 18.4000) // $llx=288.6150 $lly=18.4000 $urx=288.6150 $ury=18.4000 $lvl=2
*|S (vdda#17 288.6150 23.3195) // $llx=288.6150 $lly=23.3195 $urx=288.6150 $ury=23.3195 $lvl=2
Rg7 XRR11#NEG vdda#2 0.815293 $POLY1  $L=0.76 $W=5.03 $lvl=1
Rg8 XRR0#NEG vdda#4 0.815293 $POLY1  $L=0.76 $W=5.03 $lvl=1
Rg9 XRR1#NEG vdda#6 0.815293 $POLY1  $L=0.76 $W=5.03 $lvl=1
Rf10 vdda#7 vdda#9 68.209824 $MET1  $L=285.892487 $W=0.32 $lvl=2
Rf11 vdda#9 vdda 0.587617 $MET1  $L=9.57475 $W=1.245 $lvl=2
Rf12 vdda vdda#12 0.671011 $MET1  $L=10.96525 $W=1.245 $lvl=2
Rf13 vdda#12 vdda#13 5.494349 $MET1  $L=285.892242 $W=3.98 $lvl=2
Rf14 vdda#13 vdda#14 0.570782 $MET1  $L=2.46 $W=0.32 $lvl=2
Rf15 vdda vdda#15 22.302628 $MET1  $L=285.954987 $W=0.98 $lvl=2
Rf16 vdda#15 vdda#16 0.575611 $MET1  $L=2.46 $W=0.32 $lvl=2
Rf17 vdda#15 vdda#17 0.586036 $MET1  $L=2.46 $W=0.32 $lvl=2
Rcb18 vdda#6 vdda#7 0.746775 $CONT  $A=0.484 $N=10 $lvl=4
Rcb19 vdda#2 vdda#13 0.746775 $CONT  $A=0.484 $N=10 $lvl=4
Rcb20 vdda#4 vdda#15 0.746775 $CONT  $A=0.484 $N=10 $lvl=4
*
*Instance Section
*
XRR11	XRR11#POS	XRR11#NEG	rpp1k1 	L=2.5e-05	W=5e-06
XRR0	XRR0#POS	XRR0#NEG	rpp1k1 	L=2.5e-05	W=5e-06
XRR1	XRR1#POS	XRR1#NEG	rpp1k1 	L=2.5e-05	W=5e-06
.ENDS
